US05098928
2-{1-(4-Phenoxyphenyl)ethan-1-ylidene}-1,3-dithiane (Compound No. 1)
2-Trimethylsilyl-1,3-dithiane, 1.92 g, was dissolved in 20 ml of tetrahydrofuran and 6.3 ml of 1.6 mole hexane solution of n-butyl lithium was dropwise added to the solution in an argon flow under ice cooling. The mixture was stirred at the same temperature for 30 minutes. Then, a solution of 2.33 g of 4-phenoxyacetophenone in 10 ml of tetrahydrofuran was dropwise added under ice cooling followed by stirring at the same temperature for 30 minutes and at room temperature for an hour. After saturated sodium chloride aqueous solution was added, the mixture was extracted with chloroform. After drying the chloroform phase over magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate : hexane =1 : 10) to give 2.7 g of the oily product.

reactant | 2-Trimethylsilyl-1,3-dithiane | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | hexane | 1.6 mole, 6.3 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-phenoxyacetophenone | 2.33 g | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{1-(4-Phenoxyphenyl)ethan-1-ylidene}-1,3-dithiane | 2.7 g, yield: 85.9% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)=C1SCCCS1 | C18H18OS2
